US04954518
21.4 g of 3-amino-4-phenylaminoanisole was dissolved in 210 ml of pyridine. The solution was then ice-cooled. Thereto was dropwise added 12 g of methanesulfonyl chloride in 30 minutes. Stirring was conducted for 2 hours at 5°-10° C. The mixture was subjected to distillation under reduced pressure to remove the solvent. To the residue were added 500 ml of water and 300 ml of ethyl acetate. The resulting mixture was adjusted to pH 4 with 4N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The organic layer was then subjected to distillation under reduced pressure to remove the solvent. Toluene was added to the residue, and the resulting crystal was filtered to obtain 23.9 g (yield: 81.8%) of 3-methylsulfonylamino-4-phenylaminoanisole having a melting point of 109°-111° C.

reactant | 3-amino-4-phenylaminoanisole | 21.4 g | NC=1C=C(C=CC1NC1=CC=CC=C1)OC | C13H14N2O
reactant | methanesulfonyl chloride | 12 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
product | 3-methylsulfonylamino-4-phenylaminoanisole | 23.9 g, yield: 81.8% | CS(=O)(=O)NC=1C=C(C=CC1NC1=CC=CC=C1)OC | C14H16N2O3S
